US08431575B2
To an ice bath cooled, stirred solution of (R)-6-hydroxy-8-methyl-8-aza-bicyclo[3.2.1]octan-3-one (4.08 mmol, 0.634 g), triethylamine (20.4 mmol, 2.86 mL), and DMAP (0.245 mmol, 0.03 g) in dry DCM (3.5 mL) was added acetic anhydride (6.12 mmol, 0.58 mL). The reaction mixture was allowed to come to room temperature and was stirred for 12 hours. The reaction was evaporated and the resulting residue was purified on a 12 g SiO2 cartridge using 0-3% (2N NH3 in MeOH) in DCM to give acetic acid (R)-8-methyl-3-oxo-8-aza-bicyclo[3.2.1]oct-6-yl ester.

reactant | (R)-6-hydroxy-8-methyl-8-aza-bicyclo[3.2.1]octan-3-one | 4.08 mmol, 0.634 g | OC1C2CC(C[C@@H](C1)N2C)=O | C8H13NO2
reactant | triethylamine | 20.4 mmol, 2.86 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 6.12 mmol, 0.58 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 0.245 mmol, 0.03 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
product | acetic acid (R)-8-methyl-3-oxo-8-aza-bicyclo[3.2.1]oct-6-yl ester | CN1[C@H]2CC(CC1C(C2)OC(C)=O)=O | C10H15NO3
